US07683064B2
To 1-Methyl-3-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyridin-2-one (96 mg, 0.22 mmol), acetic acid 2-bromo-6-(6-methylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-benzyl ester (88 mg, 0.22 mmol), potassium phosphate (46 mg, 0.22 mmol), 2-(dicyclohexylphoshphino)-2′,4′,6′-tri-i-propyl-1,1′-biphenyl (6.2 mg, 0.013 mmol), and bis(dibenzylidineacetone)palladium(0) (3.7 mg, 0064 mmol) was added 4 mL of degassed 1:3 water/n-butanol. The headspace of the vessel was evacuated and backfilled with argon 4 times. This was heated at 100° C. for 2 hours. This was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. This was dissolved in 2 mL tetrahydrofuran, 1 mL methanol, and 1 mL water. 1M aq. lithium hydroxide solution (0.65 mL, 0.65 mmol) was added. After stirring for 18 hours, the resulting mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was washed with brine, dried over anhydrous magnesium sulfate, concentrated in vacuo, and purified by preparative TLC (5% methanol/dichloromethane) to yield 2-(2-Hydroxymethyl-3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-6-methylamino-3,4-dihydro-2H-isoquinolin-1-one (43 mg, 0.072 mmol). MS (ESI) 595 (M+H)+.

reactant | 1-Methyl-3-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyridin-2-one | 0.22 mmol, 96 mg | CN1C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=C(C=C1)C(=O)N1CCOCC1)=O | C22H29BN4O5
reactant | acetic acid 2-bromo-6-(6-methylamino-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl)-benzyl ester | 0.22 mmol, 88 mg | BrC1=C(COC(C)=O)C(=CC=C1)N1C(C2=CC=C(C=C2CC1)NC)=O | C19H19BrN2O3
reactant | potassium phosphate | 0.22 mmol, 46 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | lithium hydroxide | 0.65 mmol, 1M, 0.65 mL | [OH-].[Li+]
product | 2-(2-Hydroxymethyl-3-{1-methyl-5-[5-(morpholine-4-carbonyl)-pyridin-2-ylamino]-6-oxo-1,6-dihydro-pyridin-3-yl}-phenyl)-6-methylamino-3,4-dihydro-2H-isoquinolin-1-one | 0.072 mmol, 43 mg | OCC1=C(C=CC=C1C1=CN(C(C(=C1)NC1=NC=C(C=C1)C(=O)N1CCOCC1)=O)C)N1C(C2=CC=C(C=C2CC1)NC)=O | C33H34N6O5
